US04555263
A mixture of propionic anhydride (8.0 ml) and propionic acid (8.0 ml) was added to 3-hydroxy-5-[4-(n-butylthio)phenyl]cyclohex-2-en-1-one (4.0 g) and the mixture was heated at a temperature of 115° C. with stirring until a clear solution was obtained. Trifluoromethanesulfonic acid (10 drops) was then added and the heating and stirring was continued for a further 2 hours. The mixture was cooled and poured into water and the aqueous mixture was extracted with dichloromethane. The organic phase was washed with an aqueous solution of sodium hydrogen carbonate and then water, and was dried over anhydrous sodium sulfate. The solvent was evaporated to give an oil which was purified by column chromatography over silica gel (eluant dichloromethane) to give 3-hydroxy-5-[4-(n-butylthio)phenyl]-2-propionylcyclohex-2-en-1-one (3.8 g) as a cream coloured crystalline solid, mp 79° C.

reactant | propionic anhydride | 8.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | 8.0 ml | C(CC)(=O)O | C3H6O2
reactant | 3-hydroxy-5-[4-(n-butylthio)phenyl]cyclohex-2-en-1-one | 4.0 g | OC1=CC(CC(C1)C1=CC=C(C=C1)SCCCC)=O | C16H20O2S
catalyst | Trifluoromethanesulfonic acid | 10 drops | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | water | O | H2O
product | 3-hydroxy-5-[4-(n-butylthio)phenyl]-2-propionylcyclohex-2-en-1-one | 3.8 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)SCCCC)=O)C(CC)=O | C19H24O3S
